US06403601B1
(b) 3-(Isopropoxy)-1-naphthalenecarboxylic acid
A solution of methyl 3-isopropoxy)-naphthalenecarboxylate (0.60 g, 2.46 mmol) in THF (30 mL), water (12 mL) and 1N NaOH (5.16 mL, 5.16 mmol) was stirred for 21 h at room temperature. The THF was removed in vacuo and the aqueous solution acidified to pH 1 with 1N HCl. The resulting precipitate was extracted with EtOAc, dried (MgSO4), filtered and concentrated to yield title acid as a white solid (0.53 g, 94% yield). 1H NMR (DMSO-d6) δ 13.22 (s, 1H), 8.71 (d, 1H), 7.90 (d, 1H), 7.68 (d, 1H), 7.60 (d, 1H), 7.47 (m, 2H), 4.81 (m, 1H), 1.36 (s, 3H), 1.34 (s, 3H). MS rm/z 229 (M−H).

reactant | naphthalenecarboxylate | 2.46 mmol, 0.60 g | C1(=CC=CC2=CC=CC=C12)C(=O)[O-]
reactant | NaOH | 5.16 mmol, 1N, 5.16 mL | [OH-].[Na+]
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 12 mL | O | H2O
product | 3-(Isopropoxy)-1-naphthalenecarboxylic acid | 0.53 g, 94% yield | C(C)(C)OC=1C=C(C2=CC=CC=C2C1)C(=O)O | C14H14O3
